US04209621
7-Chloro-5-(m-trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine
A mixture of 3.50 g. of 7-hydroxy-5-(m-trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine and 25 ml. of phosphorus oxychloride is refluxed for 6 hours. The excess reagent is removed by evaporation; ice is added and 1 N sodium hydroxide is added until the aqueous phase is basic to indicator paper. The compound is extracted with methylene chloride and the solution passed through a short column of a hydrous magnesium silicate. Evaporation of eluent gives the desired compound as a light yellow solid.

reactant | 7-hydroxy-5-(m-trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine | OC1=CC(=NC=2N1N=CN2)C2=CC(=CC=C2)C(F)(F)F | C12H7F3N4O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-5-(m-trifluoromethylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=CN2)C2=CC(=CC=C2)C(F)(F)F | C12H6ClF3N4
